US09227923B2
Tert-Butyl (4-{[2-ethyl-4-(1,1,1,2,3,3,3-heptafluoropropan-2-yl)-6-methylphenyl]-carbamoyl}-2-methylbenzyl)carbamate (1.7 g) was dissolved in ethanol (30 ml). To the solution, conc. hydrochloric acid (3 ml) was added and the mixture was stirred under heating at 60° C. for 4 hours. After adjusting to room temperature, the reaction solution was diluted with ethyl acetate and water and neutralized with sodium hydrocarbonate under vigorous stirring. The organic phase was separated and the aqueous phase was extracted with ethyl acetate. The organic phases were combined, washed with water and dried over magnesium sulfate. After filtering off the drying agent, the solvent was distilled off under reduced pressure to obtain 4-(aminomethyl)-N-[2-ethyl-4-(1,1,1,2,3,3,3-heptafluoropropan-2-yl)-6-methylphenyl]-3-methyl benzamide as a crude product (0.81 g). Without further purification, the crude product was used for the next reaction.

reactant | Tert-Butyl (4-{[2-ethyl-4-(1,1,1,2,3,3,3-heptafluoropropan-2-yl)-6-methylphenyl]-carbamoyl}-2-methylbenzyl)carbamate | 1.7 g | C(C)C1=C(C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)C)NC(=O)C1=CC(=C(CNC(OC(C)(C)C)=O)C=C1)C | C26H29F7N2O3
reactant | hydrochloric acid | 3 ml | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | sodium hydrocarbonate | C(=O)(O)[O-].[Na+]
product | 4-(aminomethyl)-N-[2-ethyl-4-(1,1,1,2,3,3,3-heptafluoropropan-2-yl)-6-methylphenyl]-3-methyl benzamide | NCC1=C(C=C(C(=O)NC2=C(C=C(C=C2C)C(C(F)(F)F)(C(F)(F)F)F)CC)C=C1)C | C21H21F7N2O
